US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-ol dihydrochloride
5-Benzyloxy-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (4.3 g, 10.08 mmoles), prepared as described in example 71, in glacial acetic acid and 37% HCl was put in a flask under stirring at room temperature for ½ hour, then at 60° C. for 1 hour. The mixture was brought to dryness, taken up more times in toluene to give a solid which was triturated in acetone and dried to give 4.04 g of the title compound (yield: 98%).

reactant | 5-Benzyloxy-1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 10.08 mmoles, 4.3 g | C(C1=CC=CC=C1)OC1=C2C=NN=C(C2=CC=C1OC)CC1=C(C=NC=C1Cl)Cl | C22H17Cl2N3O2
reactant | HCl | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-ol dihydrochloride | 4.04 g, yield: 98% | Cl.Cl.ClC=1C=NC=C(C1CC1=NN=CC=2C(=C(C=CC12)OC)O)Cl | InChI=1S/C15H11Cl2N3O2.2ClH/c1-22-14-3-2-8-10(15(14)21)5-19-20-13(8)4-9-11(16)6-18-7-12(9)17;;/h2-3,5-7,21H,4H2,1H3;2*1H
